US07829665B2
(2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-9-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11, 13a,14,14a,15,16,16a-hexadecahydrocyclopropa(n)pyrrolo[2,1-c][1,4,9]triazacyclopentadecine-14a-carboxylic acid (0.71 g, 0.87 mmol) in toluene (10 mL) was added di(1H-imidazol-1-yl)methanone (0.18 g, 1.13 mmol) in rt. The reaction was stirred at 60° C. for 3 hrs. Cyclopropanesulfonamide (0.16 g, 1.31 mmol) was added, followed by addition of DBU (0.26 ml, 1.74 mmol). The reaction was then stirred at rt for 17 hrs. Water (5 mL) was added and acidified with saturated potassium hydrogen sulfate until pH=2˜3. The mixture was extracted with ethyl acetate (20 mL), washed with brine and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (Ethyl acetate) to give (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-9-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa(n)pyrrolo[2,1-c][1,4,9]triazacyclopentadecine-2-yl 4-fluoroisoindoline-2-carboxylate as white solid (0.41 g, 51%). MS: Calcd.: 917; Found: [M+H]+ 918. 1H NMR (400 MHz, d6-DMSO) δ10.99 (s, 1H), 9.12 (s, 1H), 8.04 (m, 1H), 7.98 (m, 1H), 7.87 (m, 2H), 7.33 (m, 2H), 7.08-7.21 (m, 2H), 5.48 (m, 1H), 5.32 (m, 1H), 5.27 (m, 1H), 4.67 & 4.65 (s, 4H), 4.42 (m, 1H), 4.33 (m, 1H), 4.00 (m, 1H), 3.70 (m, 1H), 3.61 (m, 1H), 3.43 (m, 1H), 3.32 (m, 1H), 3.03 (m, 1H), 2.90 (m, 2H), 2.48 (m, 2H), 2.13 (m, 1H), 1.99 (m, 2H), 1.63 (m, 1H), 083-1.24 (m, 15H).

reactant | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-9-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11, 13a,14,14a,15,16,16a-hexadecahydrocyclopropa(n)pyrrolo[2,1-c][1,4,9]triazacyclopentadecine-14a-carboxylic acid | 0.87 mmol, 0.71 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N2[C@H](C(N[C@]3([C@H](\C=C/CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C3)C(=O)O)=O)C[C@H](C2)OC(=O)N2CC3=CC=CC(=C3C2)F)=O | C37H43FN6O12S
reactant | di(1H-imidazol-1-yl)methanone | 1.13 mmol, 0.18 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | Cyclopropanesulfonamide | 1.31 mmol, 0.16 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 1.74 mmol, 0.26 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 5 mL | O | H2O
product | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-14a-(cyclopropylsulfonylcarbamoyl)-9-(2-nitrophenylsulfonyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa(n)pyrrolo[2,1-c][1,4,9]triazacyclopentadecine-2-yl 4-fluoroisoindoline-2-carboxylate | 0.41 g, 51% | FC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H]2C(N[C@]3([C@H](\C=C/CCN(CC[C@@H](C(N2C1)=O)NC(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C3)C(NS(=O)(=O)C3CC3)=O)=O | C40H48FN7O13S2
